US07737166B2
N3-{4-Cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}-N,N,N3-trimethyl-β-alaninamide (I-142)
2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (0.20 g, 0.84 mmol) was dissolved in dichloromethane (10 ml), and diisopropylethylamine (0.16 ml, 0.94 mmol) and N,N-dimethyl-3-(methylamino)propionamide (I-149) (0.11 g, 0.84 mmol) were added. After heated under reflux for 3 hours, this was diluted with dichloromethane.

reactant | 2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 0.84 mmol, 0.20 g | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
reactant | diisopropylethylamine | 0.94 mmol, 0.16 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,N-dimethyl-3-(methylamino)propionamide | CN(C(CCNC)=O)C | C6H14N2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N3-{4-Cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}-N,N,N3-trimethyl-β-alaninamide | C(#N)C1=C(C(=C(C2=C1N=C(O2)N(CCC(=O)N(C)C)C)F)C2=CC=CC=C2)C | C21H21FN4O2
